US05641784
7-Oxabicyclo[2.2.1]hept-5-en-2-carboxylic acid
3.0 g (17.8 mmol) of ethyl 7-oxabicyclo[2.2.1]hept-5-en-2-carboxylate are suspended in 10 ml of water and 20 ml of ethanol. The temperature is kept below 20° C. by cooling with ice, while 3.5 g (62.3 mmol) of potassium hydroxide are added. The mixture is stirred for 2 hours at ambient temperature, the ethanol is distilled off at a bath temperature of 30° C. and the aqueous solution is extracted with ethyl acetate. The aqueous phase is acidified to a pH of 6 while cooling with ice and shaken with dichloromethane, then the combined organic extracts are dried and evaporated down. 0.8 g (32% of theory) of the title compound are obtained as a brown oil.

reactant | ethyl 7-oxabicyclo[2.2.1]hept-5-en-2-carboxylate | 17.8 mmol, 3.0 g | C12C(CC(C=C1)O2)C(=O)OCC | C9H12O3
reactant | potassium hydroxide | 62.3 mmol, 3.5 g | [OH-].[K+]
solvent | water | 10 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 7-Oxabicyclo[2.2.1]hept-5-en-2-carboxylic acid | C12C(CC(C=C1)O2)C(=O)O | C7H8O3
